US04582913
Preparation of 5-Bromo-2,2,6-Trimethyl-4H-1,3-Dioxin-4-One
Bromine (0.105 mol, 5.38 ml) was added dropwise to a 20° C. solution of 2,2,6-trimethyl-4H-1,3-dioxin-4-one (TKD, 0.1 mol, 14.2 g) in 100 ml CH2Cl2 over five minutes. The reaction solution was rapidly decolorized and hydrogen bromide evolved. After 15 minutes, the solvent was removed in vacuo to provide 22 g (99%, >95% pure by NMR) of a pale yellow oil which solidified upon refrigeration. Flash chromatography (10% ether/hexane on silica) afforded 16.5 g (75%) of the title compound as colorless plates.

reactant | Bromine | 0.105 mol, 5.38 ml | BrBr | Br2
reactant | 2,2,6-trimethyl-4H-1,3-dioxin-4-one | 0.1 mol, 14.2 g | CC1(OC(=CC(O1)=O)C)C | C7H10O3
reactant | hydrogen bromide | Br | BrH
reactant | ether hexane | CCOCC.CCCCCC
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 5-Bromo-2,2,6-Trimethyl-4H-1,3-Dioxin-4-One | 16.5 g, 75% | BrC=1C(OC(OC1C)(C)C)=O | C7H9BrO3
